US06329381B1
6-Amino-9-benzyl-2-(3-ethoxypropoxy)purine
To sodium (150 mg, 6.5 mmol) in 5 ml of 3-ethoxypropanol were added 6-amino-9-benzyl-2-chloropurine (500 mg, 1.93 mmol) and DMF (10 ml). The mixture was heated at 120° C. for 1 hour. The reaction mixture was concentrated in vacuo to dryness. To the residue was added water and the mixture was extracted with chloroform. The organic layer was dried on sodium sulfate and the solvent was removed. The residue was purified with silica gel chromatography (2% methanol/chloroform) to give the subject compound (481 mg, yield 76%).

reactant | sodium | 6.5 mmol, 150 mg | [Na] | Na
reactant | 6-amino-9-benzyl-2-chloropurine | 1.93 mmol, 500 mg | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=CC=C1 | C12H10ClN5
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | 3-ethoxypropanol | 5 ml | C(C)OCCCO | C5H12O2
product | 6-Amino-9-benzyl-2-(3-ethoxypropoxy)purine | 481 mg, yield 76% | NC1=C2N=CN(C2=NC(=N1)OCCCOCC)CC1=CC=CC=C1 | C17H21N5O2
